US04411925
Reaction of N-benzyloxycarbonyl-D-valine with isopropylamine by the method of Example 20, Part A afforded a quantitative yield of N-benzyloxycarbonyl-D-valine isopropylamide of Rf 0.61 (TLC, ethyl acetate/hexane, 1:1, vanillin spray).

reactant | N-benzyloxycarbonyl-D-valine | C(C1=CC=CC=C1)OC(=O)N[C@H](C(C)C)C(=O)O | C13H17NO4
reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | N-benzyloxycarbonyl-D-valine isopropylamide | quantitative yield | C(C)(C)NC([C@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O | C16H24N2O3
